US04048330
A mixture of 25 g. of methyl 6-methoxy-2-naphthylacetate, 15 g. of sodium carbonate, 200 ml. of methanol, and 25 ml. of water are stirred for 24 hours. The reaction mixture is then acidified with 200 ml. of 2 N hydrochloric acid and extracted with methylene chloride. The extracts are combined, washed with water, dried over sodium sulfate, and evaporated to yield 6-methoxy-2-naphthylacetic acid.

reactant | methyl 6-methoxy-2-naphthylacetate | COC=1C=C2C=CC(=CC2=CC1)CC(=O)OC | C14H14O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 6-methoxy-2-naphthylacetic acid | COC=1C=C2C=CC(=CC2=CC1)CC(=O)O | C13H12O3
